US06147111
A mixture of 3-hydroxybenzoic acid (10 g, 0.072 mol), potassium carbonate (22.0 g, 0.159 mol) and 1-iodopropane (20.5 ml, 35.7 g, 0.210 mol) in acetone (800 ml) was refluxed for 24 hours. The mixture was filtered, the filtrate was concentrated on the rotary evaporator and the concentrate was partitioned between water and diethyl ether. The aqueous layer was extracted with diethyl ether and the combined extracts were washed with saturated sodium bicarbonate solution and brine and then dried (MgSO4) and concentrated. Flash chromatography on silica gel (elution with 20-50% diethyl ether in n-hexane) gave propyl (3-propyloxy)benzoate. Yield 3.031 g.

reactant | 3-hydroxybenzoic acid | 0.072 mol, 10 g | OC=1C=C(C(=O)O)C=CC1 | C7H6O3
reactant | potassium carbonate | 0.159 mol, 22.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-iodopropane | 0.210 mol, 20.5 ml, 35.7 g | ICCC | C3H7I
reactant | acetone | 800 ml | CC(=O)C | C3H6O
product | propyl (3-propyloxy)benzoate | CCCOC1=C(C(=O)OCCC)C=CC=C1 | C13H18O3
